2189-04-21 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2189-4-20**] 09:55 AM
 NASAL SWAB - At [**2189-4-20**] 10:08 AM
 BLOOD CULTURED - At [**2189-4-20**] 12:00 PM
   from arterial line
   [**2189-4-20**]:
   Patient continued to be oliguric overnight with UOP ranging
   15-50ml/hour (most recently 50/hour).  Bladder pressures were monitored
   q 4 hours and was last 17.  Hematocrit had been stable, but drifted
   down to 24.7 this morning and is being transfused 1 unit pRBCs.
   Went for mesenteric angiogram for probable psuedoaneurysm seen on CT
   coiled.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Tetracycline
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl (Concentrate) - 175 mcg/hour
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2189-4-21**] 12:00 AM
   Fentanyl - [**2189-4-21**] 05:09 AM
   Propofol - [**2189-4-21**] 06:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-4-21**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.3
C (99.1
   HR: 100 (89 - 134) bpm
   BP: 109/62(82) {97/60(76) - 156/99(124)} mmHg
   RR: 13 (8 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 72.9 kg (admission): 66.7 kg
   Height: 67 Inch
    CVP: 10 (2 - 12)mmHg
   Bladder pressure: 17 (16 - 19) mmHg
                                Total In:
                                                                 13,527 mL
                                                                    688 mL
   PO:
                                TF:
   IVF:
                                                                  2,823 mL
                                                                    313 mL
   Blood products:
                                                                  4,704 mL
                                                                    375 mL
   Total out:
                                                                    618 mL
                                                                    324 mL
   Urine:
                                                                    618 mL
                                                                    324 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 12,909 mL
                                                                    364 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 92 (92 - 538) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 70
   PIP: 22 cmH2O
   Plateau: 15 cmH2O
   Compliance: 54.9 cmH2O/mL
   SpO2: 100%
   ABG: 7.32/39/110/21/-5
   Ve: 3.4 L/min
   PaO2 / FiO2: 367
   Physical Examination
   Labs / Radiology
   124 K/uL
   8.9 g/dL
   79 mg/dL
   1.1 mg/dL
   21 mEq/L
   3.1 mEq/L
   25 mg/dL
   116 mEq/L
   145 mEq/L
   24.7 %
   11.2 K/uL
        [image002.jpg]
                             [**2189-4-20**]  08:33 AM
                             [**2189-4-20**]  08:44 AM
                             [**2189-4-20**]  11:58 AM
                             [**2189-4-20**]  02:42 PM
                             [**2189-4-20**]  06:16 PM
                             [**2189-4-20**]  06:17 PM
                             [**2189-4-20**]  06:27 PM
                             [**2189-4-20**]  08:00 PM
                             [**2189-4-21**]  02:15 AM
                             [**2189-4-21**]  05:20 AM
   WBC
   9.2
   13.7
   11.2
   Hct
   27.5
   28.8
   28.7
   24.7
   Plt
   146
   179
   124
   Cr
   1.1
   1.5
   1.1
   TCO2
   24
   21
   22
   21
   Glucose
   78
   77
   78
   87
   107
   85
   79
   Other labs: PT / PTT / INR:12.3/26.0/1.0, Amylase / Lipase:/40,
   Fibrinogen:260 mg/dL, Lactic Acid:0.8 mmol/L, Ca++:8.0 mg/dL, Mg++:2.2
   mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   53F with newly diagnosed right retroperitoneal mass with involvement of
   right kidney and IVC compression, now with hypotension and hemorrhagic
   shock from acute RP bleed.
   .
   # SHOCK, HEMORRHAGIC: Presumed hemorrhagic from acute blood loss at RP
   mass (presumed that this is mass with bleed, also could be hematoma as
   below).  Had pseudoaneursym within this mass which likely represents
   bleeding source.  Now s/p coiling by IR in attempt to stop hemorrhage
   with no evidence of residual bleed.  Labs improving - improvement in
   metabolic acidosis, lactate; pressor requirements/BPs also improved.
   Having some poor UOP which is still worrisome though this has been
   improving over the past several hours.
   - IR following.
   - General surgery following - will update following IR procedure.
   - Maintain excellent IV access - CVL right now; if further active
   bleeding needs cordis or improved PIV access.
   - Maintain normothermia.
   - Keep crossed at least 4 units PRBCs and active blood bank specimen.
   - Monitor CVP off CVL; goal CVP 8-12.
   - Trend Hct Q8h
   - Transfuse Hct < 30 or evidence of shock or active bleeding.
   - Keep INR < 1.5; Plts > 50; f'gen > 100.
   - [**Month (only) 8**] need IV calcium with blood as well; watch icals.
   - Will utilize LR for further IVF resuscitation based on low bicarb (no
   lactic acidosis or AG).
   .
   # RESPIRATORY FAILURE.  Developed hypoxic respiratory failure in
   setting of acute bleed and shock.  Differential includes aspiration
   from altered mental status, hypoventilation from above, ARDS, PE given
   venous stasis of LEs from IVC compression (though would be unable to
   anticoagulate and likely unable to place filter given IVC
   compression).  Now oxygenating and ventilating very well on minimal
   settings.
   - CXR upon arrival to MICU.
   - Keep on AC at current settings for now (no plans for immediate
   extubation).
   - Propofol for sedation
   - Monitor today
 may be possible to extubate if patient remains stable
   .
   # RETROPERITONEAL MASS:  The differential for an enhancing
   retroperitoneal mass includes RP hematoma, sarcoma, lymphoma, large
   metastasis, infection (abscess, tuberculosis), schwannoma, or Castleman
   disease.  OSH read of initial imaging concerning for mass, but per
   initial [**Hospital1 5**] read, cannot definitively say there is mass vs. this
   being all RP hematoma.  Arguing against bland hematoma as explanation
   is relatively normal Hct at initial presentation - would expect this to
   be lower unless having slow bleed and time to generate sufficient
   marrow response to compensate, which is also possible. Lipase remains
   flat.
   - General surgery following.
   - F/U final read of CT abdomen/pelvis
   - Defer tissue diagnosis of mass until more medically stable.
   - Appreciate GI recs
 will likely need EGD to rule out acute or
   chronic duodenal ulcer.
   - d/w GI utility of RUQ ultrasound
   - Further history from family re: ?chronic or acute pancreatitis.
   - Now that s/p coiling, worry most about blood supply to duodenum and
   potential for bowel necrosis.  Will monitor abdominal exam, lactates,
   films for free air, and surgical followup.
   .
   # LOW URINE OUTPUT: Likely represents new ARF - prerenal vs. ATN
   (ischemic/shock, multiple contrast admin) vs. mass compression of
   kidney/vessels/ureter (not seen on current imaging).  Contrast in
   kidneys seen from scan several hours ago - will likely have further
   contrast injury from second CT and angio.  Most recently UOP has been
   50 cc/hr (x 3 hrs).
   - Monitor CVPs, goal CVP 8-12.  Ensure adequate fluid resuscitation.
   - Continue to monitor lytes, respiratory status.
   - Consider bicarb/mucomyst.
   - Renal function and UOP improving this morning; continue to trend and
   follow closely
   .
   # METABOLIC ACIDOSIS: Combination of lactic acidosis from shock, some
   may also be renal failure related.
   - Management of shock, oliguria as above.
   .
   # HYPOTHERMIA.  T95 on arrival to TSICU.   Was initially on Bair hugger
   though this has no been discontinued as patient is normothermic.
   - Send blood and urine cultures.
   - No evidence of pneumonia on CXR.
   - Low threshold to cover with antibiotics, but will hold off for now.
   .
   # LEUKOCYTOSIS: Reactive from acute stressors above.
   - Low threshold to cover with antiotics given overall instability, but
   BPs currently improved and no evidence of source.
   .
   # FEN: NPO, bolus prn with LR, replete lytes as above, tube feed recs.
   # Prophylaxis: Pneumoboots
   # Access: Right IJ, peripheral x2, R axillary Aline.
   # Communication: husband (cell - [**Telephone/Fax (1) 12403**])
   # Code:  Full
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2189-4-20**] 07:40 AM
   Multi Lumen - [**2189-4-20**] 07:40 AM
   20 Gauge - [**2189-4-20**] 07:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2189-04-22 07:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2189-4-21**] 10:52 AM
   - GI recs: Obtain EGD when clinically stable (for ?lymphoma involvement
   of stomach); Abdominal u/s to rule out necrotizing pancreatitis
   (already ordered, not yet completed)
   - Pt continues in pain on morphine, also nauseous, will try dilaudid
   - Final CT ab/pelvis/chest read [**4-20**]: 1. Extensive retroperitoneal
   hemorrhage with IV contrast extravasation posterior to the pancreas
   suggestive of a large pseudoaneurysm. Etiology of this pseudoaneurysm
   is unclear and may relate to prior trauma, pancreatitis or duodenal
   ulceration/inflammation. No definite retroperitoneal mass is
   identified. These findings were discussed urgently between radiology
   resident Dr. [**First Name8 (NamePattern2) 364**] [**Last Name (NamePattern1) **] and surgical resident Dr. [**First Name4 (NamePattern1) 6302**] [**Last Name (NamePattern1) 6361**], and
   the patient was referred to interventional radiology for intervention.
   2. Marked narrowing of the mesenteric vessels, presumably due to
   compression by the large hematoma, however these vessels should also be
   evaluated during angiography. 3. CT findings of acute renal compromise.
   4. Incidentally noted thyroid nodules, the largest measuring up to 2.2
   cm, for which thyroid ultrasound is recommended on a non-emergent
   basis.
   - PCP [**First Name4 (NamePattern1) 12450**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 12451**] called by [**Doctor First Name 2226**] to update.
   - Morphine changed to dilaudid as pt c/o nausea/agitation with
   morphine; home meds of Ultram and gabapentin were restarted to help
   with pain. Pain still not well controlled, so dilaudid increased to [**1-17**]
   mg Q3H (likely some narcotic tolerance given home vicodin use).
   - Patient became hypertensive/tachycardic in setting of pain;
   metoprolol was started in place of home atenolol at 12.5 TID (later
   increased to 25 TID with persistently elevated pressures).
   - Notified by nurse that patient's right DP pulse is diminished from
   prior. On exam, both feet are cool to the touch but right DP is very
   faint (but dopplerable). Groin site on right from angiogram with no
   concerning findings: dressing C/D/I, no palpable hematoma, no bruit.
   Allergies:
   Penicillins
   Unknown;
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Tetracycline
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2189-4-21**] 08:10 AM
   Propofol - [**2189-4-21**] 08:11 AM
   Morphine Sulfate - [**2189-4-21**] 01:15 PM
   Pantoprazole (Protonix) - [**2189-4-22**] 01:09 AM
   Hydromorphone (Dilaudid) - [**2189-4-22**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2189-4-22**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**91**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.2
C (97.1
   HR: 67 (67 - 124) bpm
   BP: 149/81(109) {119/65(89) - 195/107(147)} mmHg
   RR: 18 (8 - 27) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 73.8 kg (admission): 66.7 kg
   Height: 67 Inch
    CVP: 14 (5 - 14)mmHg
   Bladder pressure: 14 (14 - 18) mmHg
   Total In:
                                                                    896 mL
                                                                    160 mL
   PO:
                                                                     30 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    491 mL
                                                                    110 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  2,289 mL
                                                                    665 mL
   Urine:
                                                                  2,289 mL
                                                                    665 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,393 mL
                                                                   -505 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.36/47/71/23/0  ([**4-22**] AM)
   Physical Examination
   General: Pleasant female in NAD.
   HEENT: MMM, oropharynx clear
   Neck: supple, RIJ line in place, difficult to appreciate JVD, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  hypoactive bowel sounds, slightly tense, appears non-tender,
   non-distended, no rebound tenderness or guarding, no organomegaly or
   masses able to be appreciated
   Ext: warm and well perfused, angioseal in place in R groin.  DP and PT
   pulses present bilaterally, left DP more easily palpable compared to
   right, no clubbing, cyanosis or edema
   Labs / Radiology
   120 K/uL
   10.2 g/dL
   90 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.6 mEq/L
   17 mg/dL
   113 mEq/L
   145 mEq/L
   28.2 %
   12.7 K/uL
        [image002.jpg]
                             [**2189-4-20**]  06:27 PM
                             [**2189-4-20**]  08:00 PM
                             [**2189-4-21**]  02:15 AM
                             [**2189-4-21**]  05:20 AM
                             [**2189-4-21**]  09:25 AM
                             [**2189-4-21**]  02:09 PM
                             [**2189-4-21**]  02:33 PM
                             [**2189-4-21**]  09:02 PM
                             [**2189-4-22**]  02:57 AM
                             [**2189-4-22**]  03:16 AM
   WBC
   11.2
   12.7
   Hct
   24.7
   29.6
   27.9
   28.5
   28.2
   Plt
   124
   120
   Cr
   1.1
   0.6
   TCO2
   22
   21
   21
   28
   Glucose
   107
   85
   79
   90
   Other labs: PT / PTT / INR:12.3/26.0/1.0,
   Amylase / Lipase:/40,
    Differential-Neuts:83.3 %, Lymph:12.4 %, Mono:3.3 %, Eos:0.5 %,
    Lactic Acid:0.6 mmol/L
    Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   TSH: 1.9
   Microbiology:
   Urine CX: NGTD
   Blood CX: NGTD
   CT Abdomen ([**4-19**])
   1. Extensive retroperitoneal hemorrhage with IV contrast extravasation
   posterior to the pancreas suggestive of a large pseudoaneurysm.
   Etiology of
   this pseudoaneurysm is unclear and may relate to prior trauma,
   pancreatitis or
   duodenal ulceration/inflammation. No definite retroperitoneal mass is
   identified. These findings were discussed urgently between radiology
   resident
   Dr. [**First Name8 (NamePattern2) 364**] [**Last Name (NamePattern1) **] and surgical resident Dr. [**First Name4 (NamePattern1) 6302**] [**Last Name (NamePattern1) 6361**], and the patient
   was
   referred to interventional radiology for intervention.
   2. Marked narrowing of the mesenteric vessels, presumably due to
   compression
   by the large hematoma, however these vessels should also be evaluated
   during
   angiography.
   3. CT findings of acute renal compromise.
   4. Incidentally noted thyroid nodules, the largest measuring up to 2.2
   cm,
   for which thyroid ultrasound is recommended on a non-emergent basis.
   Abdominal U/S ([**4-22**]): completed but not read
   Assessment and Plan
   53F with newly diagnosed right retroperitoneal mass with involvement of
   right kidney and IVC compression, now with hypotension and hemorrhagic
   shock from acute RP bleed.
   .
   # SHOCK, HEMORRHAGIC: Presumed hemorrhagic from acute blood loss at RP
   mass (presumed that this is mass with bleed, also could be hematoma as
   below).  Had pseudoaneursym within this mass which likely represents
   bleeding source.  Now s/p coiling by IR in attempt to stop hemorrhage
   with no evidence of residual bleed.  Labs improving - improvement in
   metabolic acidosis, lactate; pressor requirements/BPs also improved.
   Having some poor UOP which is still worrisome though this has been
   improving over the past several hours. Hemodynamically stable.
   - IR following.
   - General surgery following - will update following IR procedure.
   - Maintain excellent IV access
 good PIV access now; will plan to pull
   old CVL from OSH.
   - Maintain normothermia.
   - Keep crossed at least 4 units PRBCs and active blood bank specimen.
   - Monitor CVP off CVL; goal CVP 8-12.
   - Trend Hct Q8-12h
   - Transfuse Hct < 30 or evidence of shock or active bleeding.
   - Keep INR < 1.5; Plts > 50; f'gen > 100.
   - [**Month (only) 8**] need IV calcium with blood as well; watch icals.
   - Will utilize LR for further IVF resuscitation based on low bicarb (no
   lactic acidosis or AG).
   - No longer necessary to trend bladder pressures
   - Change to PO Dilaudid for pain control
   - F/U CT in [**3-21**] weeks
   .
   # RESPIRATORY FAILURE.  Developed hypoxic respiratory failure in
   setting of acute bleed and shock.  Differential includes aspiration
   from altered mental status, hypoventilation from above, ARDS, PE given
   venous stasis of LEs from IVC compression (though would be unable to
   anticoagulate and likely unable to place filter given IVC
   compression).  Extubated on [**2189-4-21**] and now oxygenating and ventilating
   well on room air.
   -- Monitor respiratory status s/p extubation
   .
   # RETROPERITONEAL MASS:  The differential for an enhancing
   retroperitoneal mass includes RP hematoma, sarcoma, lymphoma, large
   metastasis, infection (abscess, tuberculosis), schwannoma, or Castleman
   disease.  OSH read of initial imaging concerning for mass, but per
   initial [**Hospital1 5**] read, cannot definitively say there is mass vs. this
   being all RP hematoma.  Arguing against bland hematoma as explanation
   is relatively normal Hct at initial presentation - would expect this to
   be lower unless having slow bleed and time to generate sufficient
   marrow response to compensate, which is also possible. Lipase remains
   flat.
   - General surgery following.
   - Defer tissue diagnosis of mass until more medically stable.
   - Appreciate GI recs
 will likely need EGD eventually to rule out
   acute or chronic duodenal ulcer.
   - d/w GI utility of RUQ ultrasound
   - Further history from family re: ?chronic or acute pancreatitis.
   - Now that s/p coiling, worry most about blood supply to duodenum and
   potential for bowel necrosis.  Will monitor abdominal exam, lactates,
   films for free air, and surgical followup.
   - F/U abdominal US done this morning
   .
   # LOW URINE OUTPUT: Likely represents new ARF - prerenal vs. ATN
   (ischemic/shock, multiple contrast admin) vs. mass compression of
   kidney/vessels/ureter (not seen on current imaging).  Contrast in
   kidneys seen from scan several hours ago - will likely have further
   contrast injury from second CT and angio.  Most recently UOP has been
   50 cc/hr (x 3 hrs).
   - Monitor CVPs, goal CVP 8-12.  Ensure adequate fluid resuscitation.
   - Continue to monitor lytes, respiratory status.
   - Consider bicarb/mucomyst.
   - Renal function and UOP improving this morning; continue to trend and
   follow closely
   .
   # METABOLIC ACIDOSIS: Combination of lactic acidosis from shock, some
   may also be renal failure related.
   - Management of shock, oliguria as above.
   .
   # HYPOTHERMIA.  T95 on arrival to TSICU.   Was initially on Bair hugger
   though this has no been discontinued as patient is normothermic.
   - Send blood and urine cultures.
   - No evidence of pneumonia on CXR.
   - Low threshold to cover with antibiotics, but will hold off for now.
   .
   # LEUKOCYTOSIS: Reactive from acute stressors above.  Resolved.
   - Low threshold to cover with antibiotics given overall instability,
   but BPs currently improved and no evidence of source.
   .
   # FEN: NPO - ADAT, bolus prn with LR, replete lytes as above, tube feed
   recs.
   # Prophylaxis: Pneumoboots, PO PPI
   # Access: Right IJ (may pull today), peripheral x2, R axillary Aline.
   # Communication: husband (cell - [**Telephone/Fax (1) 12403**])
   # Code:  Full
   # Disposition: ICU pending clinical improvement
 transition to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2189-4-20**] 07:40 AM
   Multi Lumen - [**2189-4-20**] 07:40 AM
   20 Gauge - [**2189-4-20**] 07:40 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: